US05430042
Preparation of 5-Carbethoxy-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole
5-Carbethoxy-2-mercapto-1H-benzimidazole (2.0 g, 9 mmol) and NaOH (0.36 g, 9 mmol) in H2O (1 ml) were dissolved in ethanol (30 ml). 3,4-dimethoxy-2-chloromethylpyridine hydrochloride (≈6.6 mmol) as a crude material were added and the mixture was heated to boiling. NaOH (0.26 g, 6.6 mmol) in H2O (1 ml) was added and the reflux was continued for 6 hours. The solvent was evaporated off and the residue was diluted with methylene chloride and water. The organic phase was dried over Na2SO4 and the solvent removed under reduced pressure. Crystallizing from CH3CN gave the desired product (1.75 g, 71%).

reactant | 5-Carbethoxy-2-mercapto-1H-benzimidazole | 9 mmol, 2.0 g | C(=O)(OCC)C1=CC2=C(NC(=N2)S)C=C1 | C10H10N2O2S
reactant | NaOH | 9 mmol, 0.36 g | [OH-].[Na+]
reactant | 3,4-dimethoxy-2-chloromethylpyridine hydrochloride | ≈6.6 mmol | Cl.COC=1C(=NC=CC1OC)CCl
reactant | NaOH | 6.6 mmol, 0.26 g | [OH-].[Na+]
solvent | H2O | 1 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | H2O | 1 ml | O | H2O
product | 5-Carbethoxy-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole | 1.75 g, 71% | C(=O)(OCC)C1=CC2=C(NC(=N2)SCC2=NC=CC(=C2OC)OC)C=C1 | C18H19N3O4S
